US06762205B1
The procedure of Preparation Example 2 was repeated, except that 1.465 g of methyl 4-[(1Z)-2-cyano-2-(4-methoxyphenyl)vinyl]phenyl-carboxylate was used in place of 4′-methoxy-2-biphenylacetonitrile, and 1,2-dichloroethane was used in place of methylene chloride. The resulting crude product was purified by TLC (using a 10:1 mixture of chloroform and tetrahydrofuran as the developing solvent) to obtain 524 mg of methyl 4-[(1Z)-2-cyano-2-(4-hydroxyphenyl)vinyl]phenylcarboxylate.

reactant | methyl 4-[(1Z)-2-cyano-2-(4-methoxyphenyl)vinyl]phenyl-carboxylate | 1.465 g | C(#N)\C(=C/C1=CC=C(C=C1)C(=O)OC)\C1=CC=C(C=C1)OC | C18H15NO3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | methyl 4-[(1Z)-2-cyano-2-(4-hydroxyphenyl)vinyl]phenylcarboxylate | 524 mg | C(#N)\C(=C/C1=CC=C(C=C1)C(=O)OC)\C1=CC=C(C=C1)O | C17H13NO3
